US09212187B2
Synthesis of {N-[3-(1-methyl-2-oxo-1,2-dihydroquinolin-6-yloxy)propyl]-N-(pyridin-4-ylmethyl)amino}acetic acid ethyl ester
Potassium carbonate (1.66 g) and ethyl bromoacetate (1.16 ml) were added to a DMF solution (50 ml) of 1-methyl-6-{3-[(pyridin-4-ylmethyl)amino]propoxy}-1H-quinolin-2-one (1.5 g), and stirred at room temperature overnight. The reaction mixture was added to ice water, and extraction with ethyl acetate was performed. The organic layer was washed with a saturated sodium chloride aqueous solution, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate: methanol=100:0→85:15). The purified product was condensed under reduced pressure to give the title compound (1.28 g) as a orange oil.

reactant | Potassium carbonate | 1.66 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 1.16 ml | BrCC(=O)OCC | C4H7BrO2
reactant | DMF | 50 ml | CN(C)C=O | C3H7NO
reactant | 1-methyl-6-{3-[(pyridin-4-ylmethyl)amino]propoxy}-1H-quinolin-2-one | 1.5 g | CN1C(C=CC2=CC(=CC=C12)OCCCNCC1=CC=NC=C1)=O | C19H21N3O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | {N-[3-(1-methyl-2-oxo-1,2-dihydroquinolin-6-yloxy)propyl]-N-(pyridin-4-ylmethyl)amino}acetic acid ethyl ester | 1.28 g | C(C)OC(CN(CC1=CC=NC=C1)CCCOC=1C=C2C=CC(N(C2=CC1)C)=O)=O | C23H27N3O4
